US07868188B2
Using an analogous method to that described by Ponticello et al, J. Org. Chem., Vol. 44, No. 17, 1979, for the preparation of 2-chloro-3-methylsulfonylpyridine, a solution of 3-chloroperbenzoic acid (75% pure; 5 g, 22 mmol) in chloroform (50 mL) was added to a stirred solution of 5-bromo-2-chloro-3-methylthiopyridine (2.6 g, 10.9 mmol) in chloroform (50 mL) and the mixture was stirred at room temperature for 20 hours. The resultant solution was poured into a saturated aqueous sodium hydrogen carbonate solution. The organic phase was separated, washed twice with saturated aqueous sodium hydrogen carbonate solution and dried over sodium sulfate. The organic solvent was removed under reduced pressure and the residue was crystallised from a methanolic solution (20 mL). The resultant solid was filtered off and dried to afford 5-bromo-2-chloro-3-methylsulfonylpyridine (2.15 g, 73% yield); 1H NMR Spectrum: (CDCl3) 8.70 (1H, d); 8.59 (1H, d); 3.34 (3H, s); Mass Spectrum: M+H+ 270 and 272.

reactant | 2-chloro-3-methylsulfonylpyridine | ClC1=NC=CC=C1S(=O)(=O)C | C6H6ClNO2S
reactant | 3-chloroperbenzoic acid | 22 mmol, 5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 5-bromo-2-chloro-3-methylthiopyridine | 10.9 mmol, 2.6 g | BrC=1C=C(C(=NC1)Cl)SC | C6H5BrClNS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-bromo-2-chloro-3-methylsulfonylpyridine | 2.15 g, 73% yield | BrC=1C=C(C(=NC1)Cl)S(=O)(=O)C | C6H5BrClNO2S
